US04618364
15 g of 3-(2-tetrahydropyranyl)-1,2,3,4,6,7-hexahydro-5H-cyclopentapyrimidine-2,4-dione [prepared according to the French Pat. No. 2,029,250] were introduced with stirring over 20 minutes at 20° C. into 130 ml of anhydrous tetrahydrofuran and 13 ml of hexamethylphosphotriamide and then 3.35 g of a 50% suspension of sodium hydride in oil were introduced in several portions at 0° C. with stirring for 105 minutes. Then 13 g of p-tolyl chloroformate prepared from p-cresol were introduced dropwise with stirring at 20° C. over 17 hours and the mixture was then poured into iced water. Isopropyl ether was added thereto and the mixture was vacuum filtered. The solid product was dried to obtain 15.5 g of 3-(2-tetrahydropyranyl)-1,2,3,4,6,7-hexahydro-1-(p-tolyloxycarbonyl)-5H-cyclopentapyrimidine-2,4-dione melting at 136° C.

reactant | 3-(2-tetrahydropyranyl)-1,2,3,4,6,7-hexahydro-5H-cyclopentapyrimidine-2,4-dione | 15 g | O1C(CCCC1)N1C(NC2=C(C1=O)CCC2)=O | C12H16N2O3
reactant | sodium hydride | [H-].[Na+]
reactant | p-tolyl chloroformate | 13 g | ClC(=O)OC1=CC=C(C=C1)C | C8H7ClO2
reactant | p-cresol | C1=CC(=CC=C1O)C | C7H8O
reactant | Isopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | water | O | H2O
solvent | hexamethylphosphotriamide | 13 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
solvent | tetrahydrofuran | 130 ml | O1CCCC1 | C4H8O
product | 3-(2-tetrahydropyranyl)-1,2,3,4,6,7-hexahydro-1-(p-tolyloxycarbonyl)-5H-cyclopentapyrimidine-2,4-dione | 15.5 g | O1C(CCCC1)N1C(N(C2=C(C1=O)CCC2)C(=O)OC2=CC=C(C=C2)C)=O | C20H22N2O5
